Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
atenolol / nadolol
 
Attending: ___
 
Chief Complaint:
neck pain/mass

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Mr ___ is a pleasant ___ yo M with hx of ___, CHF, mild 
memory loss, who initially presented to ___ with 1d of 
r-sided neck swelling/pain, sore throat, jaw pain and difficulty 
swallowing due to pain.  While at ___ head/neck 
reportedly showed no abscess, concerning for sialdentis.  CXR 
showed pleural effusions and concern for mild CHF.  He was given 
decadron/unasyn/lasix and transferred to ___ for ENT eval.   No 
SOB recently, daughter states that he did have some 2 wks ago.  
Mild anxiety a few wks ago as well, but improved without 
intervention and was in the setting of wife's funeral recently. 
Daughter believes that his appetite has decreased recently and 
short term memory loss is also worsening.  Denies dark or bloody 
stools.  

In the ED, initial vitals were: 3 98.9 74 160/80 22 96% RA.  
Labs were notable for trop of 0.06, creatinine of 3.4, BNP of 
5216, WBC 16.9.  ENT called and did not find any e/o airway 
compromise, no concern for abscess, concern for sialadenits, 
massaged out purulent fluid and sent fluid for culture.  He was 
given vanc, trazodone, olanzapine.  Pt was admitted for further 
management of neck massand out of concern for HF.   

On the floor, pt states pain has improved, but he continues to 
have neck and throat pain.  Tired.  Has had a cough for a few 
days which is also improving. Do difficulty drinking water.  He 
endorses pressure when urinating.  No recent vision changes, HA 
or CP.

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies  shortness of breath. Denies chest pain or 
tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel 
habits. No dysuria. Denies arthralgias or myalgias. 10 pt ros 
otherwise negative.

 
Past Medical History:
(per chart, confirmed with pt and daughtert):
short term memory loss, recently stopped reading paper, aaox2 at 
___, not oriented to date.
CAD, AORTOCORONARY BYPASS years ago
ESSENTIAL (PRIMARY) HYPERTENSION 
HX OF COLONIC MALIGNANCY 
HYPERLIPIDEMIA NEC/NOS 
ATRIAL FLUTTER-resolved
HYPERTROPHY (BENIGN) OF PROSTATE W/O URINARY ___  
___
COLON CA, resected
anemia
 
Social History:
___
Family History:
(per chart, confirmed with pt): heart and lung disease, no 
cancer hx
 
Physical Exam:
ADMISSION EXAM:
Vitals:98.3 ___ auto (repeat 170/68) 95
Constitutional: Alert, oriented to person, not place or date, no 
acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENT: MMM, oropharynx clear, 
Neck: Supple, JVP at 9 cm, palpable 3 cm r-sided neck mass is 
tender
CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales, rhonchi
GI: Soft, non-tender, non-distended, bowel sounds present, no 
organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE
NEURO: aaox3, CNII-XII and strength grossly intact 
SKIN: no rashes or lesions

DISCHARGE EXAM:
Essentially unchanged from admission exam
 
Pertinent Results:
___ 11:09PM   ___ COMMENTS-GREEN TOP 
___ 11:09PM   LACTATE-1.3
___ 11:06PM   GLUCOSE-123* UREA N-53* CREAT-3.4* SODIUM-136 
POTASSIUM-4.5 CHLORIDE-100 TOTAL CO2-20* ANION GAP-21*
___ 11:06PM   estGFR-Using this
___ 11:06PM   CK(CPK)-90
___ 11:06PM   CK-MB-4 proBNP-5216*
___ 11:06PM   CALCIUM-8.7 PHOSPHATE-4.3 MAGNESIUM-1.8
___ 11:06PM   WBC-16.8* RBC-3.40* HGB-10.9* HCT-34.9* 
MCV-103* MCH-32.1* MCHC-31.2* RDW-13.3 RDWSD-51.1*
___ 11:06PM   NEUTS-80.8* LYMPHS-12.2* MONOS-6.2 EOS-0.1* 
BASOS-0.2 IM ___ AbsNeut-13.57* AbsLymp-2.05 AbsMono-1.04* 
AbsEos-0.01* AbsBaso-0.03
___ 11:06PM   PLT COUNT-186
___ 11:06PM   ___ PTT-30.3 ___

___ 07:30AM BLOOD WBC-8.1 RBC-3.23* Hgb-10.5* Hct-32.6* 
MCV-101* MCH-32.5* MCHC-32.2 RDW-13.1 RDWSD-48.8* Plt ___
___ 07:30AM BLOOD Glucose-135* UreaN-57* Creat-3.4* Na-136 
K-4.7 Cl-101 HCO3-25 AnGap-15
___ 07:30AM BLOOD WBC-8.1 RBC-3.23* Hgb-10.5* Hct-32.6* 
MCV-101* MCH-32.5* MCHC-32.2 RDW-13.1 RDWSD-48.8* Plt ___
___ 07:45AM BLOOD Neuts-71.2* ___ Monos-5.1 
Eos-0.8* Baso-0.1 Im ___ AbsNeut-7.05* AbsLymp-2.23 
AbsMono-0.50 AbsEos-0.08 AbsBaso-0.01
___ 07:30AM BLOOD Plt ___
___ 07:30AM BLOOD Glucose-135* UreaN-57* Creat-3.4* Na-136 
K-4.7 Cl-101 HCO3-25 AnGap-15
___ 07:30AM BLOOD Calcium-8.5 Phos-4.2 Mg-2.0
___ 09:25AM BLOOD cTropnT-0.07*

___ CXR 
Conclusion: Small pleural effusions. Mild CHF. Cardiomegaly, 
prior
sternotomy for CABG. Worsening from last film ___.

CT scan with 3 right submandibular nodules, probably enlarged 
submandibular gland likely sialadenitis, soft tissue swelling in 
the floor of the mouth and submandibular region representing 
edema or cellulitis.   

EKG: sinus tach 

 
Brief Hospital Course:
Pleasant ___ yo M with hx of ___, CAD, mild memory impairment who 
presents with new neck mass.

# Neck mass: Sialadenitis on CT, had rapid improvement in his 
symptoms with unasyn and vancomycin.  WBC count normalized.  He 
was switched to augmentin on ___, and given vancomycin on 
___ ___s ___, which given his renal function, will 
amount to ___ days of MRSA coverage.  Discussed with ENT - and 
they only felt f/u needed if he failed to improve completely.  
He will complete a full week of augmentin.  

# HTN: Pressures elevated over the course of his 
hospitalization, slight improvement with increase of metoprolol 
dose; outpatient providers ___ need to continue to follow.   
Pressures on day of discharge 160s/80s

# Atrial flutter:  Seen frequently on telemetry, and with heart 
rates escalating to intermittent bursts of 130-140.  Patient 
asymptomatic.  Home Toprol increased from 25XL daily to 100XL 
daily.  HR's in 80's on day of discharge.

# ___: Near ___, creatinine was 3.13 in ___.  UA unconcerning, 
no eosinophilia on CBC, no rash to suggest AIN, bladder scans 
showed 200+ cc of urine, not enough to cause renal failure.  He 
appeared euvolemic on exam.  Creatinine trended downwards to 3.4 
from peak of 3.7 on admission without any treatment or 
intervention

# BPH/? urinary retention: pt c/o fullness with urination, PVR 
___, tamsulosin continued.

# Chronic CHF: with e/o mild volume overload on OSH CT, and he 
was given IV Lasix at ___.  He denied dyspnea here 
in ___ and appeared euvolemic on exam.  Home 20mg Lasix dose 
was continued.   BNP of 5000.

# CAD: with hx of CABG, trop mildly elevated currently without 
clinical s/s of MI, likely due to ___.  Trops reassuringly flat. 


Tranisitional Issues:
[ ] F/u salivary gland tenderness and refer to ENT for f/u if 
needed
[ ] F/u HR's and continue to titrate Tolprol prn.

Billing: Greater than 30 minutes spent on discharge counseling 
and coordination of care.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Senna 8.6 mg PO QHS 
2. Aspirin 81 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Tamsulosin 0.4 mg PO QHS 
5. TraZODone 25 mg PO QHS 
6. Furosemide 20 mg PO DAILY 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
Please finish up 3 additional days of treatment 
RX *amoxicillin-pot clavulanate 500 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*6 Tablet Refills:*0 
2.  Metoprolol Succinate XL 100 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Furosemide 20 mg PO DAILY  
5.  Senna 8.6 mg PO QHS  
6.  Tamsulosin 0.4 mg PO QHS  
7.  TraZODone 25 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
1. Sialadenitis
2. Atrial flutter
3. Chronic Kidney disease
4.  Hypertension

 
Discharge Condition:
Mental Status: Confused - sometimes - but mostly oriented, 
engaged.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted with pain in your neck and found to have an 
enlarged, infected salivary gland.  You were seen by the ENT 
service who recommended antibiotics, which you received with 
good effect - your swelling and symptoms of pain improved 
substantially.  You were noted to have a rapid heart rate so we 
increased your dose of the medicine metoprolol and this improved 
substantially.
 
Followup Instructions:
___